US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-4-yl)pyrimidin-2-yl]thiocarbonyl]piperazine
In a mixed solvent of dimethoxyethane (10 ml) and toluene (10 ml) was suspended 1-[(5-chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-4-yl)pyrimidin-2-yl]carbonyl]piperazine (100 mg) at room temperature, followed by the addition of Lawesson's reagent (2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide, 42 mg). The resulting mixture was heated under reflux for 2 days. After cooling to room temperature, the reaction mixture was concentrated and the residue was purified by chromatography on a silica gel column (3→5% methanol—methylene chloride). 1N hydrochloric acid (in ethanol) was added to make acidic the purified product. After concentration, ethyl acetate was added. Yellow powder so precipitated was collected by filtration and dried, whereby the title compound (34 mg) was obtained.

reactant | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
reactant | 1-[(5-chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-4-yl)pyrimidin-2-yl]carbonyl]piperazine | 100 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=NC=C(C=N1)C1=CC=NC=C1 | C22H19ClN6O3S
reactant | Lawesson's reagent | 42 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(5-Chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-4-yl)pyrimidin-2-yl]thiocarbonyl]piperazine | 34 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=S)C1=NC=C(C=N1)C1=CC=NC=C1 | C22H19ClN6O2S2
